US05703098
To a stirred solid of sodium borohydride (121 grams, 3.19 mol) at 0° C., was added methanol (50 mL). To this mixture at 0° C. was added a solution of methyl 3-amino-3-(3'-ethoxy-4'-methoxyphenyl)propionate (80.84 grams, 319.5 mmol) in methanol (1500 mL) over 1 hour. The mixture was stirred in that ice-water bath until the temperature of the reaction mixture stayed at 35° C. or lower for 30 minutes. (Early removal of the ice bath may result in a highly exothermic reaction). The water bath was then removed and the solution was refluxed for 16 hours. The solution was allowed to cool to room temperature. To the solution was added water (300 mL), followed by methylene chloride (250 mL) at 0° C. The resulting suspension was filtered. Half of the filtrate was removed in vacuo. The resulting solution was dissolved in methylene chloride (500 mL) and water (300 mL). The organic layer was separated. The aqueous layer was extracted with methylene chloride (3×500 mL). The combined organic layers were washed with brine (100 mL), and dried over magnesium sulfate. Removal of solvent gave an oil. The resulting oil was dried in vacuo to afford 3-amino-3-(3'-ethoxy-4'-methoxyphenyl)-1-propanol as a white solid (53 grams, 74% yield): 1H NMR (CDCl3)δ1.47 (t, J=6.8 Hz, 3H, CH3), 1.84-1.90 (m, 2H, CH2), 2.58 (br s, 3H, NH2, OH), 3.78 (t, J=5.5 Hz, 2H, OCH2), 3.86 (s, 3H, CH2), 4.04-4.15 (m, 3H, CH2, NCH), 6.84 (s, 3H, Ar); 13C NMR (CDCl3)δ14.74, 39.78, 55.84, 55.91, 61.86, 64.28, 110.55, 111.47, 117.58, 138.82, 148.27, 148.32; Anal. Calcd for C12H19 NO3 : C, 63.98; H, 8.50; N, 6.22. Found: C, 63.73; H, 8.44; N, 6.14.

reactant | sodium borohydride | 3.19 mol, 121 grams | [BH4-].[Na+]
reactant | methyl 3-amino-3-(3'-ethoxy-4'-methoxyphenyl)propionate | 319.5 mmol, 80.84 grams | NC(CC(=O)OC)C1=CC(=C(C=C1)OC)OCC | C13H19NO4
solvent | methanol | 1500 mL | CO | CH4O
solvent | methanol | 50 mL | CO | CH4O
product | 3-amino-3-(3'-ethoxy-4'-methoxyphenyl)-1-propanol | 53 grams, 74% yield | NC(CCO)C1=CC(=C(C=C1)OC)OCC | C12H19NO3
